US07678803B2
A suspension of 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carbonitrile (0.035 g, 0.1 mmol), hydroxylamine (7 mg, 0.1 mmol) and triethylamine (0.01 mL, 0.1 mmol) in EtOH (2 mL) is placed in an oil bath at 100° C. and stirred for 2 days. The solvent is evaporated under reduced pressure, and the residue is purified using a Biotage column (0-20% MeOH/CH2Cl2) to afford 0.017 g (48%) of 1-amino-N-hydroxy-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carboxamidine. LC/MS m/z=378 [M+H]+, RT=1.82 min.

reactant | 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carbonitrile | 0.1 mmol, 0.035 g | NC1=NC=C(C2=CC(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)C#N | C21H20N4O
reactant | hydroxylamine | 0.1 mmol, 7 mg | NO | H3NO
reactant | triethylamine | 0.1 mmol, 0.01 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 2 mL | CCO | C2H6O
product | 1-amino-N-hydroxy-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carboxamidine | 0.017 g, 48% | NC1=NC=C(C2=CC(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)C(=N)NO | C21H23N5O2
